Groundlark A2 supporting circuit: i2c_200pf
Vcc vcc 0 3.3
Vctl ctl 0 PULSE(1 0 5u 1n 1n 5u 10u)
Rpull vcc bus 4747
Cbus bus 0 2e-10
Sdrive bus 0 ctl 0 SW
.model SW SW(Ron=20 Roff=1e12 Vt=0.5 Vh=0)
.tran 1n 9u
.measure tran rise TRIG v(bus) VAL=0.99 RISE=1 TARG v(bus) VAL=2.31 RISE=1
.measure tran low FIND v(bus) AT=4u

.end
