Groundlark A2 supporting circuit: uart_service
Vdrive src 0 PULSE(0 3.135 100n 5n 5n 500n 1u)
Rdriver src out 25
Rseries out receiver 47
Cload receiver 0 100p
.tran 0.5n 900n
.measure tran rise TRIG v(receiver) VAL=0.9405 RISE=1 TARG v(receiver) VAL=2.1945 RISE=1
.measure tran sampled FIND v(receiver) AT=350n

.end
