Geophone nominal mechanical and passive electrical model
Vmotion motion 0 DC 0 AC 0.0001
Cm motion damp 0.0012508788103992319
Rm damp hp 39.58406743523139
Lm hp 0 1
Egeo coilp coilm hp 0 23.4
Rcoil coilp leadp 395
R90 leadp ainp 1000
R91 coilm ainm 1000
R92 ainp vcm 1meg
R93 ainm vcm 1meg
C90 ainp ainm 1e-07
C91 ainp 0 1n
C92 ainm 0 1n
Vsupply supply 0 3.3
R96 supply avdd 22
Iadc avdd 0 0.0005
C94 avdd 0 10u
C95 avdd 0 100n
R94 avdd vcm 10k
R95 vcm 0 10k
C93 vcm 0 10u
Eout out 0 ainp ainm 1
.control
op
print v(avdd) v(vcm)
ac lin 1 4.5 4.5
let amplitude = mag(v(out))
print amplitude
quit
.endc
.end
