Geophone passive startup and pulse recovery; no ADC overload model
Vsupply supply 0 PWL(0 0 1m 3.465)
R96 supply avdd 22
Iadc avdd 0 500u
C94 avdd 0 8e-06
C95 avdd 0 100n
R94 avdd vcm 10.1k
R95 vcm 0 9.9k
C93 vcm 0 8e-06
Vcoil coilp coilm PULSE(0 0.002 .4 10u 10u .02 1)
Rcoil coilp leadp 414.75
R90 leadp ainp 1.01k
R91 coilm ainm .99k
R92 ainp vcm 1.01meg
R93 ainm vcm .99meg
C90 ainp ainm 105n
C91 ainp 0 1.05n
C92 ainm 0 .95n
Ileakp leadp 0 10n
Ileakn coilm 0 0
.control
tran 20u .5
let differential = v(ainp)-v(ainm)
let commonmode = (v(ainp)+v(ainm))/2
meas tran baseline FIND differential AT=.39
meas tran pulse FIND differential AT=.419
meas tran recovered FIND differential AT=.425
meas tran bias_start FIND commonmode AT=.3
meas tran bias_final FIND commonmode AT=.5
quit
.endc
.end
