Groundlark Trenz support check: load_step_3.33325_200n
Vsource src 0 3.33325
Rpath src wire .030
Lpath wire module 200n
Resr module cap .020
Cbulk cap 0 26.4u
Iload module 0 PULSE(.1 3 1m 100u 100u 1m 3m)
.tran .1u 4m
.measure tran vmin MIN v(module) FROM=.5m TO=4m
.measure tran vmax MAX v(module) FROM=.5m TO=4m
.end
